US09034866B2
10-Bromo-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) was reacted with 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole similar to as described in Example 4 and triturated from water to give 90 mg of 10-bromo-3-(1-methylpyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 13.2 mg of 10-(3-hydroxy-3-methyl-but-1-ynyl)-3-(1-methylpyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benz oxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 392 (M)+. 1H NMR (400 MHz, DMSO) δ 8.56 (d, J=2.0 Hz, 1H), 8.07 (s, 1H), 7.74 (s, 1H), 7.54 (s, 1H), 7.29 (dd, J=8.5, 2.1 Hz, 1H), 7.05-7.00 (m, 2H), 5.43 (s, 1H), 4.46-4.40 (m, 2H), 4.31 (d, J=4.0 Hz, 2H), 3.90 (s, 3H), 1.48 (s, 6H).

reactant | 10-Bromo-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1 | C12H9BrIN3O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 10-bromo-3-(1-methylpyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 90 mg | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C=3C=NN(C3)C)C1 | C16H14BrN5O2
